US07022725B2
A mixture of ethyl (E)-3-(5-phenyl-4-isoxazolyl)propenoate (4.89 g), 2N hydrochloric acid (50 ml) and acetic acid (50 ml) was refluxed for 3 hr. The reaction mixture was concentrated, and water was added to the residue. The obtained colorless crystals were filtrated to give (E)-3-(5-phenyl-4-isoxazolyl)propenoic acid (4.02 g, yield 93%). The crystals were recrystallized from acetone-hexane. melting point: 197–199° C.

reactant | ethyl (E)-3-(5-phenyl-4-isoxazolyl)propenoate | 4.89 g | C1(=CC=CC=C1)C1=C(C=NO1)/C=C/C(=O)OCC | C14H13NO3
reactant | hydrochloric acid | 2N, 50 ml | Cl | ClH
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | (E)-3-(5-phenyl-4-isoxazolyl)propenoic acid | 4.02 g, yield 93% | C1(=CC=CC=C1)C1=C(C=NO1)/C=C/C(=O)O | C12H9NO3
